datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)[O:21][H:20].O=C(C1CCCc2ccccc2O1)[O-:10]>>CC(=O)[O-:21].O=C(C1CCCc2ccccc2O1)[O:10][H:20] 10=20;20,21=21",
"NCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(=O)c1ccc(O)c2c1ccc[n+:21]2[H:20].Nc1ccc(Cc2ccc([NH2:10])cc2)cc1>>CC(=O)c1ccc(O)c2c1ccc[n:21]2.Nc1ccc(Cc2ccc([NH2+:10][H:20])cc2)cc1 10=20;20,21=21",
"CCc1cc(Cl)c([O-])c(C(=O)NCC2CCC[N:10]2CC)c1OC.O=C([O-])C(Cc1nc(I)[n-]c1I)[NH2+:21][H:20]>>CCc1cc(Cl)c([O-])c(C(=O)NCC2CCC[N+:10]2(CC)[H:20])c1OC.O=C([O-])C(Cc1nc(I)[n-]c1I)[NH2:21] 10=20;20,21=21",
"CCCCCC(C)(C)[NH2:10].Nc1nc[nH+]c2c1[n+:21]([H:20])cn2CCOCP(=O)(O)O>>CCCCCC(C)(C)[NH2+:10][H:20].Nc1nc[nH+]c2c1[n:21]cn2CCOCP(=O)(O)O 10=20;20,21=21",
"Cc1cc(C)c(C)c([NH2+:21][H:20])c1C.O=C(c1ccccc1-c1nnn[nH]1)[O-:10]>>Cc1cc(C)c(C)c([NH2:21])c1C.O=C(c1ccccc1-c1nnn[nH]1)[O:10][H:20] 10=20;20,21=21",
"CC1(C)NC(=S)[N-:10]C1=S.COP(=O)(NS(C)(=O)=O)[O:21][H:20]>>CC1(C)NC(=S)[N:10]([H:20])C1=S.COP(=O)(NS(C)(=O)=O)[O-:21] 10=20;20,21=21",
"C[C@@H]1CCCC[C@@H]1[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[C@@H]1CCCC[C@@H]1[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"COC(=O)/C(=N/[O-:10])c1ccccc1.Nc1ncc2c(nc[n:21]2[H:20])n1>>COC(=O)/C(=N/[O:10][H:20])c1ccccc1.Nc1ncc2c(nc[n-:21]2)n1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].COCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COCC[NH2+:10][H:20] 10=20;20,21=21",
"CCCCCCCC[N+:21](CC(C)O)(CC(C)O)[H:20].C[NH2+]CCCNC(=O)/C=N/[O-:10]>>CCCCCCCC[N:21](CC(C)O)CC(C)O.C[NH2+]CCCNC(=O)/C=N/[O:10][H:20] 10=20;20,21=21",
"CC(C)(C)C(=O)N[O-:10].Cc1cc([C@@H]([NH3+])CO)c([O:21][H:20])c([C@@H]([NH3+])CO)c1>>CC(C)(C)C(=O)N[O:10][H:20].Cc1cc([C@@H]([NH3+])CO)c([O-:21])c([C@@H]([NH3+])CO)c1 10=20;20,21=21",
"Nc1nc[n+:21]([H:20])c2[nH]cnc12.[NH3+]C(CCc1ccc([N+](=O)[O-])cc1)C(=O)[O-:10]>>Nc1nc[n:21]c2[nH]cnc12.[NH3+]C(CCc1ccc([N+](=O)[O-])cc1)C(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1cc(C(=O)[O-:10])c(C)o1.Cc1ccc(C(O)C(C(=O)[O:21][H:20])c2ccc(C3CCCCC3)cc2)cc1>>Cc1cc(C(=O)[O:10][H:20])c(C)o1.Cc1ccc(C(O)C(C(=O)[O-:21])c2ccc(C3CCCCC3)cc2)cc1 10=20;20,21=21",
"CC[N:10](C)C.O=[N+]([O-])c1cccc(C2SCC[NH+:21]2[H:20])c1>>CC[N+:10](C)(C)[H:20].O=[N+]([O-])c1cccc(C2SCC[NH:21]2)c1 10=20;20,21=21",
"C[N:10]1CC[C@]23c4c5ccc(O)c4O[C@H]2C(=O)CC[C@H]3[C@H]1C5.N#CCCC(=O)[O:21][H:20]>>C[N+:10]1([H:20])CC[C@]23c4c5ccc(O)c4O[C@H]2C(=O)CC[C@H]3[C@H]1C5.N#CCCC(=O)[O-:21] 10=20;20,21=21",
"CCC(C)[NH:10]CC(C)C.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCC(C)[NH+:10](CC(C)C)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC(C)c1ccc2c(c1)CC[C@H]1[C@](C)(C(=O)[O-:10])CCC[C@]21C.CC(CC(c1ccccc1)c1ccccc1)[N+:21]1([H:20])CCCCC1>>CC(C)c1ccc2c(c1)CC[C@H]1[C@](C)(C(=O)[O:10][H:20])CCC[C@]21C.CC(CC(c1ccccc1)c1ccccc1)[N:21]1CCCCC1 10=20;20,21=21",
"CCn1nnnc1CC(=O)[O:21][H:20].Cn1cncc1CC(NC(=O)CC[NH2:10])C(=O)[O-]>>CCn1nnnc1CC(=O)[O-:21].Cn1cncc1CC(NC(=O)CC[NH2+:10][H:20])C(=O)[O-] 10=20;20,21=21",
"Cc1ccc(CO[NH2+:21][H:20])cc1.O=C(C1CC1)[O-:10]>>Cc1ccc(CO[NH2:21])cc1.O=C(C1CC1)[O:10][H:20] 10=20;20,21=21",
"CCCCCCC(=O)N[O:21][H:20].CN(C)CC[N:10](C)CCN(C)C>>CCCCCCC(=O)N[O-:21].CN(C)CC[N+:10](C)(CCN(C)C)[H:20] 10=20;20,21=21",
"O=C([O-])C1CC[NH:10]1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>O=C([O-])C1CC[NH+:10]1[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C1CC2([NH2+:21][H:20])CC1C2.O=S(=O)([O-])c1cc[n:10]cc1>>C1CC2([NH2:21])CC1C2.O=S(=O)([O-])c1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].COc1cc(C[NH2:10])c(C)cc1N>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COc1cc(C[NH2+:10][H:20])c(C)cc1N 10=20;20,21=21",
"C[Si](C)(CCN)O[Si](C)(C)CC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[Si](C)(CCN)O[Si](C)(C)CC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C1CCC[NH:10]CC1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C1CCC[NH+:10]([H:20])CC1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1cc(CCC[NH2:10])ccn1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1cc(CCC[NH2+:10][H:20])ccn1 10=20;20,21=21",
"C#[N+][O-:10].CCOC(=O)c1ccc([O:21][H:20])cc1>>C#[N+][O:10][H:20].CCOC(=O)c1ccc([O-:21])cc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].C[NH+](C)CCNCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[NH+](C)CCNCC[NH2+:10][H:20] 10=20;20,21=21",
"CN(C)C(C)([OH2+])[O-:10].COc1ccc([N:21](C(=S)c2ccccc2)[H:20])cc1>>CN(C)C(C)([OH2+])[O:10][H:20].COc1ccc([N-:21]C(=S)c2ccccc2)cc1 10=20;20,21=21",
"C1CSCC[NH+:21]([H:20])CCN1.Nc1ccc2cn[n-:10]c2c1>>C1CSCC[NH:21]CCN1.Nc1ccc2cn[n:10]([H:20])c2c1 10=20;20,21=21",
"CC(C)=CC[C@@H]1C(=O)C(C(=O)CC(C)C)=C([O-:10])[C@H]1O.Cc1cc2cccc(O)c2[n+:21]([H:20])c1C>>CC(C)=CC[C@@H]1C(=O)C(C(=O)CC(C)C)=C([O:10][H:20])[C@H]1O.Cc1cc2cccc(O)c2[n:21]c1C 10=20;20,21=21",
